US05382590
The procedure is analogous to that described in Example 1, but 1.0 g of (RS)-2-(2-amino-N-phenylacetamido)-N-methyl-N-phenylpropionamide and 0.42 g of 3-methylphenyl isocyanate are used as the starting material. After recrystallization from a mixture of acetonitrile and dimethylformamide (93-7 by volume), 0.5 g of (RS)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}-N-phenylpropionamide melting at 214° C. is obtained.

reactant | (RS)-2-(2-amino-N-phenylacetamido)-N-methyl-N-phenylpropionamide | 1.0 g | NCC(=O)N(C1=CC=CC=C1)C(C(=O)N(C1=CC=CC=C1)C)C | C18H21N3O2
reactant | 3-methylphenyl isocyanate | 0.42 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | (RS)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}-N-phenylpropionamide | 0.5 g | CN(C(C(C)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C26H28N4O3
